US08012983B2
Step 1: (1S,4S)-2-isopropyl-5-(3-nitrophenyl)-2,5-diazabicyclo[2.2.1]heptane
A solution of BINAP (0.47 g, 0.75 mmol) and tris(dibenzylideneacetone)dipalladium (0) (0.34 g, 0.37 mmol) in toluene (120 mL) was heated to 90° C. during 15 minutes under nitrogen. The reaction mixture was cooled to 40° C. before adding 1-bromo-3-nitrobenzene (1.89 g, 9.37 mmol), (1S,4S)-2-isopropyl-2,5-diazabicyclo[2.2.1]heptane dihydrochloride (2.0 g, 9.37 mmol) and sodium tert-butoxide (3.14 g, 32.74 mmol). The reaction was heated to 90° C. during 18 hours under nitrogen. After return to room temperature, the reaction was diluted with ethyl acetate and filtered through celite. The filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with a mixture of DCM/7N NH3 in methanol (96/4) to afford the title compound (1.92 g, 78%).

reactant | BINAP | 0.75 mmol, 0.47 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-bromo-3-nitrobenzene | 9.37 mmol, 1.89 g | BrC1=CC(=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | (1S,4S)-2-isopropyl-2,5-diazabicyclo[2.2.1]heptane dihydrochloride | 9.37 mmol, 2.0 g | Cl.Cl.C(C)(C)N1[C@@H]2CN[C@H](C1)C2
reactant | sodium tert-butoxide | 32.74 mmol, 3.14 g | CC(C)([O-])C.[Na+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.37 mmol, 0.34 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1S,4S)-2-isopropyl-5-(3-nitrophenyl)-2,5-diazabicyclo[2.2.1]heptane | 1.92 g, 78% | C(C)(C)N1[C@@H]2CN([C@H](C1)C2)C2=CC(=CC=C2)[N+](=O)[O-] | C14H19N3O2
